US05106842
Diphenylmethyl 7-amino-3-[3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl]-3-cephem-4-carboxylate (Ib2)
A solution of diphenylmethyl 7-(t-butoxycarbonylamino)-3-(3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl)-3-cephem-4-carboxylate (300 mg, 0.496 mmol) and p-toluenesulfonic acid monohydrate (189 mg, 0.992 mmol) in acetonitrile (1.5 mL) was stirred for 1 hr at 22° C. The solution was applied to the Michel-Miller HPLPLC column. The column was eluted with acetonitrile-H2O (45:55, v/v) to remove the toluene-sulfonic acid and then with acetonitrile-H2O (70:30, v/v) to elute the deblocked amine. The acetonitrile was removed on a rotary evaporator and the resulting mixture extracted twice with ethyl acetate. The combined extracts were washed (saturated NaCl), dried (Na2SO4), and concentrated to leave the title compound (146 mg, 58% yield) as a yellow powder.

reactant | diphenylmethyl 7-(t-butoxycarbonylamino)-3-(3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl)-3-cephem-4-carboxylate | 0.496 mmol, 300 mg | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)OC(C)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H32N2O8S
reactant | p-toluenesulfonic acid monohydrate | 0.992 mmol, 189 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | Diphenylmethyl 7-amino-3-[3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl]-3-cephem-4-carboxylate | 146 mg, 58% yield | NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)OC(C)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H24N2O6S
